US06211170B1
Preparation of 4-{{(phenoxycarbonyl)amino}-methyl}pyridine
To a solution of 4-(aminomethyl)pyridine (10.7 g, 98.5 mmol) in CH2Cl2 (245 mL) at 0°, was added Et3N (14.2 mL, 19.9 g, 197 mmol) followed by dropwise addition of phenylchloroformate (14.8 mL, 18.5 g, 118 mmol). After stirring for 1 h, the resulting mixture was diluted with EtOAc (1.5 L), the organic phase was washed twice with water and brine, dried over sodium sulfate and concentrated under vacuum. Chromatography (SiO2, gradient EtOAc to 10% MeOH/CHCl3) gave a yellow solid which was recrystallized from EtOAc:hexane (2:1), to yield the desired compound (9.55 g, 41.85 mmol, 42% yield).

reactant | 4-(aminomethyl)pyridine | 98.5 mmol, 10.7 g | NCC1=CC=NC=C1 | C6H8N2
reactant | Et3N | 197 mmol, 14.2 mL, 19.9 g | CCN(CC)CC | C6H15N
reactant | phenylchloroformate | 118 mmol, 14.8 mL, 18.5 g | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
solvent | CH2Cl2 | 245 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 1.5 L | CCOC(=O)C | C4H8O2
product | 4-{{(phenoxycarbonyl)amino}-methyl}pyridine | 41.85 mmol, 9.55 g, 42% yield | O(C1=CC=CC=C1)C(=O)NCC1=CC=NC=C1 | C13H12N2O2
